US07151097B2
Preparation of Intermediate 4-(4-Chlorophenyl)-2-[(2-chlorophenyl)-hydrazono]-3-oxobutyric Acid Ethyl Ester (I-2b)
A solution of sodium nitrite (3.4 g, 50.4 mmol) in water (15 ml) was added dropwise over an hour period to a cooled (0° C.), stirred solution of 2-chloroaniline (6.4 g, 50.4 mmol) in acetic acid (50 ml)/water (7 ml). Then a solution of 4-(4-chloro-phenyl)-3-oxo-butyric acid ethyl ester (10 g, 42 mmol) in acetic acid (30 ml) was added dropwise over a 30-minutes period to produce an orange slurry (20 ml of water added to aid stirring). After an additional hour, the mixture was filtered, solids washed with water and air-dried. Solids slurried in ethanol (75 ml) for 30 minutes, filtered, solids washed with methanol and dried in vacuo to afford the title compound (I-2b) as an orange solid, 11.0 g.

reactant | sodium nitrite | 50.4 mmol, 3.4 g | N(=O)[O-].[Na+]
reactant | 2-chloroaniline | 50.4 mmol, 6.4 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 4-(4-chloro-phenyl)-3-oxo-butyric acid ethyl ester | 42 mmol, 10 g | C(C)OC(CC(CC1=CC=C(C=C1)Cl)=O)=O | C12H13ClO3
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | water | 7 ml | O | H2O
product | 4-(4-Chlorophenyl)-2-[(2-chlorophenyl)-hydrazono]-3-oxobutyric Acid Ethyl Ester | C(C)OC(C(C(CC1=CC=C(C=C1)Cl)=O)=NNC1=C(C=CC=C1)Cl)=O | C18H16Cl2N2O3
